US05013352
2-Propionyl-3-hydroxy-5-(6-(4-(methylthio)phenoxy)-2-pyridyl)cyclohex-2-en-1-one
To a slurry of 24.0 g (0.0733 mol) of 3-hydroxy-5-(6-(4-(methylthio)phenoxy)-2-pyridyl) cyclohex-2-en-1-one in 250 mL of benzene was added 10.5 g (0.0806 mol) of propionic anhydride and 17.9 g (0.0147 mol) of 4-dimethylaminopyridine. The mixture was stirred at room temperature for 1 hour and heated at reflux for 4 hours. The reaction mixture was cooled to room temperature and diluted with 150 mL of diethyl ether, washed with 200 mL of water, then washed twice with 150 mL portions of 1N HCl and dried over MgSO4. The solvent was removed in vacuo leaving 28.1 g (100 percent of theoretical) of the above named compound, as the crude product. The product was purified by dissolving it in dichloromethane and passing it through a silica gel column using dichloromethane as the eluent. The product fractions were combined and the desired product was recovered by recrystallization from 95 percent ethanol gave the above named product in a yield of 13.6 g (48 percent of theoretical). The product melted at 54°-56° C.: Rf -0.48 (silica gel, 3:97 methanol:hexane), 1H NMR (CDCl3) δ1.1 (t, 3H, --CH2CH3), 2.40 (s, 3H, CH3S--), 2.4-3.55 (m, 7H, ring protons and --CH2CH3), 6.5-7.7 (m, 7H, ArH), 18.0 (s, 1H, --OH).

reactant | 3-hydroxy-5-(6-(4-(methylthio)phenoxy)-2-pyridyl) cyclohex-2-en-1-one | 0.0733 mol, 24.0 g | OC1=CC(CC(C1)C1=NC(=CC=C1)OC1=CC=C(C=C1)SC)=O | C18H17NO3S
reactant | propionic anhydride | 0.0806 mol, 10.5 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | methanol | CO | CH4O
reactant | hexane | CCCCCC | C6H14
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.0147 mol, 17.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-Propionyl-3-hydroxy-5-(6-(4-(methylthio)phenoxy)-2-pyridyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=NC(=CC=C1)OC1=CC=C(C=C1)SC)=O | C21H21NO4S
